US07067540B2
3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(4-methylpiperazin-1-yl)carbonyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one
A solution of 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(4-methylpiperazin-1-yl)carbonyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one trifluoroacetate (0.17 g, 0.00026 mol) in 0.1N NaOH (25 mL) was stirred at room temperature for 15 min. and extracted the product in ethyl acetate (2×20 mL). The combined organic extracts were washed with water (2×20 mL), dried (Na2SO4) and concentrated to dryness. The residue was dried in vacuo to afford the title product (0.09 g, 64%) as a white powder: 1H NMR (CD3OD/400 MHz) δ 8.69 (d. 1H, J=1.2 Hz), 8.67 (d, 1H, J=1.2 Hz), 7.60 (m, 1H), 7.00 (m, 2H), 6.54 (s, 1H), 5.50 (s, 2H), 5.30 (s, 2H), 3.78 (t, 2H, J=4.8 Hz), 3.58 (t, 2H, J=4.8 Hz), 2.526 (s, 3H), 2.53 (t, 2H, J=4.8 Hz), 2.44 (t, 2H, J=4.8 Hz), and 2.31 (s, 3H); 19F NMR (CD3OD/400 MHz)=δ−111.65 (m) and −116.06 (m); ES-HRMS m/z 548.1123 (M+H C24H25N5O3BrF2 requires 548.1103).

reactant | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(4-methylpiperazin-1-yl)carbonyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one trifluoroacetate | 0.00026 mol, 0.17 g | FC(C(=O)O)(F)F.BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)C(=O)N1CCN(CC1)C)=O
solvent | NaOH | 0.1N, 25 mL | [OH-].[Na+]
product | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(4-methylpiperazin-1-yl)carbonyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one | 0.09 g, 64% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)C(=O)N1CCN(CC1)C)=O | C24H24BrF2N5O3
